US07420055B2
Synthesis of N-[4-Chloro-2-(pyridine4-carbonyl)-phenyl]4-furan-3-yl-benzenesulfonamide
4-bromo-N-[4-chloro-2-(pyridine-4-carbonyl)-phenyl]-benzenesulfonamide 0.25 g (0.55 mmol) was dissolved in 2.5 ml of anhydrous dimethylformamide. To this solution was added 0.14 g (1.3 mmol) sodium carbonate, furan-3-boronic acid 0.77 g (0.68 mmol), and Pd(PPh3)4 19 mg (0.014 mmol). The reaction mixture was heated overnight at 80° C. under a nitrogen atmosphere. The mixture was quenched with water and extracted 3 times with dichloromethane. The organic layer was dried over magnesium sulfate, filtered, and concentrated. Purification by flash column chromatography with a gradient 100% hexane to ethyl-acetate: hexane 1-1, gave the desired compound as a white powder.

reactant | 4-bromo-N-[4-chloro-2-(pyridine-4-carbonyl)-phenyl]-benzenesulfonamide | 0.55 mmol, 0.25 g | BrC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=NC=C1 | C18H12BrClN2O3S
reactant | sodium carbonate | 1.3 mmol, 0.14 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | furan-3-boronic acid | 0.68 mmol, 0.77 g | O1C=C(C=C1)B(O)O | C4H5BO3
solvent | dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
catalyst | Pd(PPh3)4 | 0.014 mmol, 19 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[4-Chloro-2-(pyridine4-carbonyl)-phenyl]4-furan-3-yl-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C1=COC=C1)C(=O)C1=CC=NC=C1 | C22H15ClN2O4S
